US08242130B2
5,7-Difluoro-2-(4-hydroxyphenyl)-4H-chromen-4-one
In a 50 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 5,7-Difluoro-2-(4-methoxyphenyl)-4H-chromen-4-one (0.425 g, 1.47 mmol), hydroiodic acid (10 mL) and acetic acid (5 mL). The reaction mixture was heated 110° C. for 4 h. The reaction mixture was cooled to room temperature and diluted with water. The precipitate was filtered off, washed with water and dried to give the title compound (220 mg, 54%). Selected data for the title compound: MS (ES) m/z: 275.10 (M+1); 19F-NMR (DMSO-d6): δ −106.2, −113.4.

reactant | 5,7-Difluoro-2-(4-methoxyphenyl)-4H-chromen-4-one | 1.47 mmol, 0.425 g | FC1=C2C(C=C(OC2=CC(=C1)F)C1=CC=C(C=C1)OC)=O | C16H10F2O3
reactant | hydroiodic acid | 10 mL | I | HI
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5,7-Difluoro-2-(4-hydroxyphenyl)-4H-chromen-4-one | 220 mg, 54% | FC1=C2C(C=C(OC2=CC(=C1)F)C1=CC=C(C=C1)O)=O | C15H8F2O3
